US07812021B2
b) 2-[(3SR,4RS)-3-[(RS)-1-(5-Chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl]-hexahydro-pyrrolo[1,2-a]pyrazin-6-one
To a stirred solution of (3SR,4RS)-3-[(RS)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride (22 mg, 0.051 mmol) in CH2Cl2 (3 mL) were added Et3N (0.015 ml, 0.11 mmol) and hexahydro-pyrrolo[1,2-a]pyrazin-6-one (commercially available) (9 mg, 0.064 mmol). Stirring was continued overnight, and the reaction mixture was concentrated under vacuo and directly purified by flash chromatography (SiO2, EtOAc) to yield 7 mg (25%) the title compound as light yellow oil. ES-MS m/e: 539.2 (M+H+).

reactant | (3SR,4RS)-3-[(RS)-1-(5-chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl chloride | 0.051 mmol, 22 mg | ClC=1C=CC(=NC1)OC(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)Cl | C18H16Cl4N2O2
reactant | Et3N | 0.11 mmol, 0.015 ml | CCN(CC)CC | C6H15N
reactant | hexahydro-pyrrolo[1,2-a]pyrazin-6-one | C1C2N(CCN1)C(CC2)=O | C7H12N2O
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3SR,4RS)-3-[(RS)-1-(5-Chloro-pyridin-2-yloxy)-ethyl]-4-(3,4-dichloro-phenyl)-pyrrolidine-1-carbonyl]-hexahydro-pyrrolo[1,2-a]pyrazin-6-one | 7 mg, 25% | ClC=1C=CC(=NC1)OC(C)C1CN(CC1C1=CC(=C(C=C1)Cl)Cl)C(=O)N1CC2N(CC1)C(CC2)=O | C25H27Cl3N4O3
